US04044049
A mixture of 7.7 grams of 4-fluoro-2-methoxyaniline, 200 ml. of nitrobenzene, and 9.0 grams of isoamyl nitrite, is warmed on the steam bath until a vigorous reaction with evolution of gas sets in. This evolution is allowed to proceed without heating until it has subsided, and the mixture is then heated on the steam bath for an additional 3 hours. The excess of nitrobenzene is removed in vacuo. The residue is purified for the desired isomer by elution from a silica gel column using petroleum-benzin to yield 4'-fluoro-2'-methoxy-4-nitrobiphenyl.

reactant | 4-fluoro-2-methoxyaniline | 7.7 grams | FC1=CC(=C(N)C=C1)OC | C7H8FNO
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | isoamyl nitrite | 9.0 grams | N(=O)OCCC(C)C | C5H11NO2
product | 4'-fluoro-2'-methoxy-4-nitrobiphenyl | FC1=CC(=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])OC | C13H10FNO3
